US06391887B1
4-Amino-8-cyano-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline
Analogously to Example 4, 8-cyano-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione (40 mg, 0.18 mmol) is reacted with 7N methanolic ammonia solution (10 ml) to form 30 mg (81%) of product.

reactant | 8-cyano-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinoline-4-thione | 0.18 mmol, 40 mg | C(#N)C1=CC=2C3C(C(NC2C=C1)=S)CCC3 | C13H12N2S
reactant | ammonia | 7N, 10 ml | N | H3N
product | 4-Amino-8-cyano-2,3,3a,9b-tetrahydro-1H-cyclopenta[c]quinoline | 30 mg, 81% | NC1=NC=2C=CC(=CC2C2C1CCC2)C#N | C13H13N3
